US08748622B2
420 g of a solution of 4-chloro-N-methylpyridine-2-carboxamide (prepared according to WO2006/034796) in toluene (approx. 30% w/w) and 48.8 g of ethanol were charged into a reaction flask. 67.2 g of acetyl chloride was added with stirring to such a degree that the temperature of the reaction mixture did not exceed 30° C. After stirring further at room temperature for 1.5 h the product was filtered off, washed with toluene (212 g) and dried under reduced pressure (30° C., 80 mbar). In this way 156 g (quantitative yield) of 4-chloro-N-methyl-pyridine-2-carboxamide hydrochloride were obtained.

reactant | 4-chloro-N-methylpyridine-2-carboxamide | ClC1=CC(=NC=C1)C(=O)NC | C7H7ClN2O
reactant | ethanol | 48.8 g | C(C)O | C2H6O
reactant | acetyl chloride | 67.2 g | C(C)(=O)Cl | C2H3ClO
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 4-chloro-N-methyl-pyridine-2-carboxamide hydrochloride | 156 g, quantitative yield | Cl.ClC1=CC(=NC=C1)C(=O)NC | InChI=1S/C7H7ClN2O.ClH/c1-9-7(11)6-4-5(8)2-3-10-6;/h2-4H,1H3,(H,9,11);1H
